US06833480B2
A solution of 2,4-dimethoxyphenylacetylene (0.02 mol), 4-fluorobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form (Z)-2,4-dimethoxystyryl-4-fluorobenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to the General Procedure.

reactant | 2,4-dimethoxyphenylacetylene | 0.02 mol | COC1=C(C=CC(=C1)OC)C#C | C10H10O2
reactant | 4-fluorobenzyl mercaptan | 0.02 mol | FC1=CC=C(CS)C=C1 | C7H7FS
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-2,4-dimethoxystyryl-4-fluorobenzylsulfide | COC1=C(\C=C/C(C2=CC=C(C=C2)F)SC(C2=CC=C(C=C2)F)\C=C/C2=C(C=C(C=C2)OC)OC)C=CC(=C1)OC | C34H32F2O4S
